US05258382
Preparation of 2-(2-trichloroacetylpyrrol-1-yl)malonic acid ethyl (-)-menthyl ester:
To a solution of 2-(pyrrol-1-yl)malonic acid ethyl (-)-menthyl ester (64.0 g) in chloroform (80 ml) was added trichloroacetyl chloride (69.0 g), and the resulting mixture was refluxed for 7 hours. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate. The solution was washed with 5% aqueous sodium carbonate solution and then with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on silica gel using n-hexane/ethyl acetate (50:1) as the eluent. Fractions containing the title compound were pooled and evaporated under reduced pressure to give the title compound (87.0 g, 94.9%) as a colorless oil.

reactant | 2-(pyrrol-1-yl)malonic acid ethyl (-)-menthyl ester | 64.0 g | C1(CC(C(CC1)C(C)C)OC(C(C(=O)OCC)N1C=CC=C1)=O)C | C19H29NO4
reactant | trichloroacetyl chloride | 69.0 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-trichloroacetylpyrrol-1-yl)malonic acid ethyl (-)-menthyl ester | 87.0 g, 94.9% | C1(CC(C(CC1)C(C)C)OC(C(C(=O)OCC)N1C(=CC=C1)C(C(Cl)(Cl)Cl)=O)=O)C | C21H28Cl3NO5
